US09163020B2
See FIG. 24(a). 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (100 mg, 0.32 mmol) was taken in a thermal reactor. DCM (3 mL) was added to get a suspension. Triethyl amine (0.089 mL, 0.64 mmol) was added followed by the addition of 1-Propanephosphonic acid cyclic anhydride (0.381 mL, 0.64 mmol). 2,2-difluoroethanamine (26.0 mg, 0.32 mmol) was added and stirred at RT for ON. After the completion of the reaction, reaction mixture was concentrated and dissolved in DCM:MeOH. This crude compound was subjected for reverse phase purification to obtain N-(2,2-difluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (20.00 mg, 16.64%) as a off white solid. ES+MS m/z: 376 (M−1). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.24 (s, 4 H ) 2.40 (s, 3 H ) 3.77-3.89 (m, 2 H ) 3.93 (s, 4 H) 5.65 (s, 2 H ) 7.77 (s, 1 H ) 8.20 (s, 1 H ) 8.40 (s, 1 H ) 8.36 (s, 1 H ) 8.91 (br. s., 1 H ).

reactant | 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.32 mmol, 100 mg | COC1=C(C(=NC=N1)CN1C=C(C2=NC=C(C=C21)C)C(=O)O)C | C16H16N4O3
reactant | Triethyl amine | 0.64 mmol, 0.089 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 0.64 mmol, 0.381 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | 2,2-difluoroethanamine | 0.32 mmol, 26.0 mg | FC(CN)F | C2H5F2N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(2,2-difluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | 20.00 mg, 16.64% | FC(CNC(=O)C1=CN(C=2C1=NC=C(C2)C)CC2=NC=NC(=C2C)OC)F | C18H19F2N5O2
